US05272172
First, 100 g of geniposide was dissolved in 650 ml of water. After 115 g of sodium periodate was added to the solution, the reaction mixture was stirred at room temperature for two hours. After 41 g of sodium boron hydride was further added, the reaction mixture was further stirred at room temperature for two hours. Subsequently, a 6N aqueous hydrochloric acid solution and ether were added, the reaction mixture was stirred at room temperature for four hours After the addition of sodium hydrogen sulfite and sodium chloride, the reaction mixture was stirred to thereby separate an ether layer. After the ether layer was separated and dried, ether was distilled off, and a yellow solid was obtained. The solid was further recrystallized from methanol and ether to yield 43 g of genipin.

reactant | geniposide | 100 g | COC(=O)C1=CO[C@H]([C@H]2[C@@H]1CC=C2CO)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O | C17H24O10
reactant | sodium periodate | 115 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium boron hydride | 41 g | B.[Na]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 650 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | genipin | 43 g | COC(=O)C1=CO[C@H]([C@H]2[C@@H]1CC=C2CO)O | C11H14O5
